US07629488B2
Step B. (S)-4-(2-tert-Butoxycarbonylamino-2-methoxycarbonylethyl)-3,5-dimethylbenzoic acid
To a suspension of (S)-2-tert-butoxycarbonylamino-3-(2,6-dimethyl-4-trifluoromethanesulfonylphenyl)-propionic acid methyl ester (9.68 g, 21.3 mmol), K2CO3 (14.1 g, 0.102 mol), Pd(OAc)2 (0.48 g, 2.13 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (2.56 g, 4.47 mmol) in DMF (48 mL) was bubbled in gaseous CO for 15 min. The mixture was heated to 60° C. for 8 h with a CO balloon. The cool mixture was partitioned between NaHCO3 and EtOAc, and filtered. The aqueous layer was separated, acidified with 10% citric acid aqueous solution, extracted with EtOAc, and finally dried over Na2SO4. Filtration and concentration of the filtrate resulted in a residue. The residue was recrystallized from EtOAc-hexanes to yield the desired product.

reactant | (S)-2-tert-butoxycarbonylamino-3-(2,6-dimethyl-4-trifluoromethanesulfonylphenyl)-propionic acid methyl ester | 21.3 mmol, 9.68 g | COC([C@H](CC1=C(C=C(C=C1C)S(=O)(=O)C(F)(F)F)C)NC(=O)OC(C)(C)C)=O | C18H24F3NO6S
reactant | K2CO3 | 0.102 mol, 14.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 48 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 2.13 mmol, 0.48 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 4.47 mmol, 2.56 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (S)-4-(2-tert-Butoxycarbonylamino-2-methoxycarbonylethyl)-3,5-dimethylbenzoic acid | C(C)(C)(C)OC(=O)N[C@@H](CC1=C(C=C(C(=O)O)C=C1C)C)C(=O)OC | C18H25NO6
